US03984569
Preparation of S-(β-aminoethyl) glutathione
There are added over a 5 minute period 1.29 g of ethylene imine, freshly distilled, to a solution of 30 millimoles of glutathione in 150 cc of water. The resulting mixture is stirred for ten minutes at ambient temperature and then concentrated to dryness. The resulting solid residue is triturated and washed successively with benzene, ethanol and acetone. The white product thus obtained (9.5 g) melts around 200° with decomposition.

reactant | ethylene imine | 1.29 g | C1CN1 | C2H5N
reactant | glutathione | 30 millimoles | N[C@H](C(=O)O)CCC(=O)N[C@@H](CS)C(=O)NCC(=O)O | C10H17N3O6S
solvent | water | 150 cc | O | H2O
product | S-(β-aminoethyl) glutathione | NCCSC[C@H](NC(CC[C@H](N)C(=O)O)=O)C(=O)NCC(=O)O | C12H22N4O6S
